US06525202B2
N-{4-[4-[(2S)-2-Hydroxy-3-(2-oxo-2,3-dihydro-1H-benzoimidazole-4-yloxy)-propylamino]-piperidine--1-yl}-benzoic acid ethyl ester
A mixture of 1-(4-ethoxycarbonylphenyl)-4-piperidone (0.25 g, 1 mmol) (Taylor, E. C., Skotnicki, J. S. Synthesis, 1981, 606) and (S)-4-[2-hydroxy-3-aminopropoxy]-1,3-dihydro-2H-benzimidazol-2-one (0.22g, 1 mmol) (U.S. Pat. No. 5,786,356/1998) in 100 mL of ethanol and 0.5 mL of acetic acid was hydrogenated in the presence of 400 mg of 10% palladium on carbon under hydrogen (5˜20 psi) for overnight. The catalyst was then removed by filtering through a short pad of silica gel. The filtrate was concentrated and purified by thin layer chromatography (12% methanol/methylene chloride) to give the title compound as a white solid (0.22 g, 48%); mp >170° C. (decomposed); 1H NMR (300 MHz, DMSO-d6) δ 1.28 (t, J=7.0 Hz, 3H), 1.30-1.55 (m, 2H), 1.80-2.10 (m, 2H), 2.80-3.10 (m, 5H), 3.80-4.10 (m, 5H), 4.23 (q, J=7.0 Hz, 2H), 6.58 (d, J=7.8 Hz, 1H), 6.62 (d, J=8.4 Hz, 1H), 6.86 (dd, J=8.4, 7.8 Hz, 1H), 6.98 (d, J=8.6 Hz, 2H), 7.77 (d, J=8.6 Hz, 2H), 10.60 (s, 1H), 10.75 (s, 1H); MS (ES) m/z: 455.1 (MH+); HRMS Calcd. for C24H30N4O5 (MH+): 454.2216. Found: 454.2211.

reactant | 1-(4-ethoxycarbonylphenyl)-4-piperidone | 1 mmol, 0.25 g | C(C)OC(=O)C1=CC=C(C=C1)N1CCC(CC1)=O | C14H17NO3
reactant | (S)-4-[2-hydroxy-3-aminopropoxy]-1,3-dihydro-2H-benzimidazol-2-one | 1 mmol, 0.22g | O[C@H](COC1=CC=CC=2NC(NC21)=O)CN | C10H13N3O3
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 400 mg | [Pd] | Pd
product | 4-[4-[(2S)-2-Hydroxy-3-(2-oxo-2,3-dihydro-1H-benzoimidazole-4-yloxy)-propylamino]-piperidine--1-yl}-benzoic acid ethyl ester | 0.22 g, 48% | C(C)OC(C1=CC=C(C=C1)N1CCC(CC1)NC[C@@H](COC1=CC=CC=2NC(NC21)=O)O)=O | C24H30N4O5
